US06017919
2-Methyl-[1,4]-naphthoquinone (5 g, 29 mmol) and ether (200 ml) were mixed in a reaction vessel replaced with argon, and this solution was cooled to -10° C. A suspension (40 ml) of lithium aluminum hydride (1.0 g, 26.3 mmol) in ether was added dropwise to this solution over 40 minutes, and the mixture was stirred at room temperature for 0.5 hour. To the reaction mixture was added dropwise 1N hydrochloric acid (100 ml) to stop the reaction. The aqueous layer was extracted twice with ethyl acetate (100 ml). The organic layers were combined, washed twice with saturated brine (50 ml), 3 times with a saturated aqueous sodium hydrogencarbonate solution (30 ml) and twice with saturated brine (50 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. Water (10 ml) and conc. hydrochloric acid (10 ml) were added to the obtained residue, and the mixture was refluxed under heating for 2 hours. Water (50 ml) was added to this reaction mixture, and the aqueous layer was extracted twice with ether (50 ml). The organic layer was washed with water (30 ml), washed twice with a saturated aqueous sodium hydrogencarbonate solution (30 ml) and twice with saturated brine (30 ml), and dried over anhydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (hexane/ethyl acetate=30/1-10/1) to give 3-methylnaphthalen-1-ol in a mixture of compounds structurally unidentified. The mixture was not further purified, but used for the next reaction.

reactant | 2-Methyl-[1,4]-naphthoquinone | 29 mmol, 5 g | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
reactant | lithium aluminum hydride | 26.3 mmol, 40 ml, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 3-methylnaphthalen-1-ol | CC=1C=C(C2=CC=CC=C2C1)O | C11H10O
